US09353104B2
Step A: (2,6-dimethylpyridin-3-yl)methanol (2)
To a solution of ethyl 2,6-dimethylnicotinate (1.0 g, 5.6 mmol) in THF (20 mL) at 0° C. was added LiAlH4 (318 mg, 8.4 mmol). The resulting mixture was stirred at 0° C. for 5 min and then warmed to room temperature for 1 hour. Quenched with 0.3 mL water, 0.3 mL 15% NaOH solution and then with 1 mL water sequentially. After stirred at room temperature for 15 min, sodium sulfate was added to the mixture and stirred for another 15 min and then filtered. The resulting solution was concentrated to afford the crude product which was used for next step directly without further purification. LCMS (ESI) m/z=138.1 138.1 (M+H)+.

reactant | ethyl 2,6-dimethylnicotinate | 5.6 mmol, 1.0 g | CC1=C(C(=O)OCC)C=CC(=N1)C | C10H13NO2
reactant | LiAlH4 | 8.4 mmol, 318 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (2,6-dimethylpyridin-3-yl)methanol | CC1=NC(=CC=C1CO)C | C8H11NO
